US07132111B2
A solution of guaiacolsulfonic acid in sulfuric acid was prepared. Water in the recirculating water bath was heated to 65 degrees Centigrade. The weight of available stock guaiacol, purified reagent, that contained 1.63 moles of guaiacol was calculated. The amount of available stock of sulfuric acid NF that contained 3.41 moles of sulfuric acid was calculated. A 1 liter Corning Pyrix bottle No. 1395 was placed on the Mettler PG-5002-S balance. A 600 mL beaker was filled with approximately 400 mL guaiacol, purified reagent from the available stock bottle. A quantity of 1.63 moles of guaiacol as guaiacol, purified reagent by weight from the beaker was added to the bottle.

reactant | guaiacol | 1.63 moles | C=1(C(O)=CC=CC1)OC | C7H8O2
reactant | guaiacol | approximately 400 mL | C=1(C(O)=CC=CC1)OC | C7H8O2
reactant | guaiacol | 1.63 moles | C=1(C(O)=CC=CC1)OC | C7H8O2
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | sulfuric acid | 3.41 moles | S(O)(O)(=O)=O | H2O4S
solvent | water | O | H2O
product | guaiacolsulfonic acid | COC=1C=C(C=CC1O)S(=O)(=O)O | C7H8O5S
